US09120804B2
(8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-yl-(4-morpholin-4-yl-phenyl)-amine
To a solution of 4-morpholinophenylisothiocyanate (2 g, 8.99 mmol) in dry dichloromethane (200 ml), 1,2-diamino-pyrazinium mesitylenate (3.86 g, 11.24 mmol), diisopropylethylamine (5.81 g, 44.99 mmol) and EDCI (3.44 g, 17.98 mmol) are added and stirred for 6 hours. The reaction mixture is concentrated and the residue is taken in water (100 ml), triturated and filtered, washed with water (50 ml×2) and dried, the crude solid is purified by silica column using (60-120) mesh to get the titled product as light brown solid (2.5 g, 84.17%); TLC: chloroform/methanol (9.5/0.5) Rf—0.3; HPLC puritiy (method A) 98%; Rt (min): 2.21; LCMS: mass found (M+, 331.0), Rt (min): 2.08;

reactant | 4-morpholinophenylisothiocyanate | 8.99 mmol, 2 g | O1CCN(CC1)C1=CC=C(C=C1)N=C=S | C11H12N2OS
reactant | 1,2-diamino-pyrazinium mesitylenate | 11.24 mmol, 3.86 g | C1(=CC(=CC(=C1)C)C)C(=O)[O-].N[N+]1=C(C=NC=C1)N
reactant | diisopropylethylamine | 44.99 mmol, 5.81 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDCI | 17.98 mmol, 3.44 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-yl-(4-morpholin-4-yl-phenyl)-amine | 2.5 g, 84.17% | ClC=1C=2N(C=CN1)N=C(N2)NC2=CC=C(C=C2)N2CCOCC2 | C15H15ClN6O
